2101-12-07 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2101-12-6**] 11:18 PM
   Continued on face mask and nasal cannula overnight - weaned O2
   Allergies:
   Amoxicillin
   swelling face;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-12-7**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 98 (80 - 118) bpm
   BP: 156/69(90) {125/53(72) - 156/70(92)} mmHg
   RR: 23 (19 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     40 mL
                                                                    368 mL
   PO:
             TF:
   IVF:
                                                                     40 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     40 mL
                                                                    368 mL
   Respiratory support
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   322 K/uL
   10.2 g/dL
   30.6 %
   7.1 K/uL
        [image002.jpg]
                            [**2101-12-7**]  06:08 AM
   WBC
   7.1
   Hct
   30.6
   Plt
   322
   Other labs: PT / PTT / INR:12.4/27.1/1.0
   Assessment and Plan
   80yoF DLBCL on R-CHOP, admitted [**11-29**] with SOB, fever, mild increased O2
   requirement, with CT showing septal and ground glass opacities (?PCP vs
   pulmonary edema) and question of mass lesion in left central airways,
   now s/p bronch for biopsy with R ptx and hypoxia, admitted to MICU for
   overnight monitoring.
   .
   #  hypoxia - multifactorial, emphysema at baseline, ?other
   opportunistic infection (treated with levo since admit, bactrim from
   [**11-30**] to [**12-3**] after pcp r/o), now with R-ptx with chest tube in place
   [**2-26**] barotrauma.
   - keep O2 sats 90-93%
   - chest tube to suction -20 o/n, waterseal at 5am
   - cxr 9am
   - f/u cxs
   - abg am [**12-7**] to assess pCO2
   - continue levofloxacin to complete presumptive 10d course, end [**12-8**]
   - hold advair while receiving steroids and albuterol
   - solumedrol 40mg tid for 1d for stressor, then resume prednisone 20mg
   qd
   .
   # anemia - no identifiable cause of anemia by primary team, likely [**2-26**]
   chemotherapy.
   - transfusion goal hct >25
   - t/s
   - guaiac stools x3
   .
   # lymphoma - now s/p r-chop cycle 3.  Onc to address plans.
   - onc recommendations
   - f/u biopsy from bronch today
   - solumderol then prednisone 20mg qd, as per onc team
   .
   # ppx: ppi, pneumoboots.
   # access: PICC
   # code status: full
   # dispo: transfer to OMED/BMT [**12-7**] once O2 stabilizes
   Staffed with Dr. [**First Name (STitle) 803**], 0015 [**12-7**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2101-12-6**] 11:18 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: to [**Hospital Ward Name 1100**] 7

2101-12-08 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pigtail removed.
   - Stayed in MICU due to lack of 7F beds currently.
   Allergies:
   Amoxicillin
   swelling face;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2101-12-7**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-12-8**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.3
   HR: 83 (80 - 107) bpm
   BP: 144/56(76) {119/52(70) - 157/78(95)} mmHg
   RR: 22 (19 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,945 mL
                  PO:
                                                                    720 mL
                  TF:
   IVF:
                                                                  1,225 mL
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                    385 mL
   Urine:
                                                                  1,405 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    540 mL
                                                                   -385 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   341 K/uL
   10.0 g/dL
   127 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.0 mEq/L
   14 mg/dL
   101 mEq/L
   138 mEq/L
   30.5 %
   4.4 K/uL
        [image002.jpg]
                            [**2101-12-7**]  06:08 AM
                            [**2101-12-8**]  06:15 AM
   WBC
   7.1
   4.4
   Hct
   30.6
   30.5
   Plt
   322
   341
   Cr
   0.4
   0.4
   Glucose
   90
   127
   Other labs: PT / PTT / INR:11.5/24.0/1.0, Ca++:7.8 mg/dL, Mg++:2.2
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   80yoF DLBCL on R-CHOP, admitted [**11-29**] with SOB, fever, mild increased O2
   requirement, with CT showing septal and ground glass opacities (?PCP vs
   pulmonary edema) and question of mass lesion in left central airways,
   now s/p bronch for biopsy with R ptx and hypoxia, admitted to MICU for
   overnight monitoring.
   .
   #  hypoxia - multifactorial, emphysema at baseline, ?other
   opportunistic infection (treated with levo since admit, bactrim from
   [**11-30**] to [**12-3**] after pcp r/o), now with R-ptx with chest tube in place
   [**2-26**] barotrauma.  Has had remarkable improvement in O2 requirement, now
   with O2 near home baseline 3L.
   - keep O2 sats 90-93%
   - chest tube clamped, IP to assess for pigtail catheter
   - f/u cxs
   - cont levofloxacin to complete presumptive 10d course, end [**12-8**]
   - hold advair while receiving steroids and albuterol
   - solumedrol 40mg tid for 1d for stressor, then resume prednisone 20mg
   qd
   .
   # anemia - no identifiable cause of anemia by primary team, likely [**2-26**]
   chemotherapy.
   - transfusion goal hct >25
   - t/s
   - guaiac stools x3
   .
   # lymphoma - now s/p r-chop cycle 3.  Onc to address plans.
   - onc recommendations
   - f/u biopsy from bronch today
   - solumderol then prednisone 20mg qd, as per onc team
   .
   # ppx: ppi, pneumoboots.
   # access: PICC
   # code status: full
   # dispo: transfer to OMED/BMT [**12-7**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2101-12-6**] 11:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2101-12-08 08:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > chest tube removed.
   Allergies:
   Amoxicillin
   swelling face;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2101-12-7**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-12-8**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 83 (80 - 107) bpm
   BP: 144/56(76) {119/52(70) - 157/78(95)} mmHg
   RR: 22 (19 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,945 mL
                                                                    100 mL
   PO:
                                                                    720 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,225 mL
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                    545 mL
   Urine:
                                                                  1,405 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    540 mL
                                                                   -445 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   10.0 g/dL
   341 K/uL
   127 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.0 mEq/L
   14 mg/dL
   101 mEq/L
   138 mEq/L
   30.5 %
   4.4 K/uL
        [image002.jpg]
                            [**2101-12-7**]  06:08 AM
                            [**2101-12-8**]  06:15 AM
   WBC
   7.1
   4.4
   Hct
   30.6
   30.5
   Plt
   322
   341
   Cr
   0.4
   0.4
   Glucose
   90
   127
   Other labs: PT / PTT / INR:11.5/24.0/1.0, Ca++:7.8 mg/dL, Mg++:2.2
   mg/dL, PO4:2.8 mg/dL
   CXR  [**12-8**]: large lung fields with removal of chest tube
   Assessment and Plan
   80yoF DLBCL on R-CHOP, admitted [**11-29**] with SOB, fever, mild increased O2
   requirement, with CT showing septal and ground glass opacities (PCP neg
   on BAL [**12-2**]) and question of mass lesion in left central airways, now
   s/p bronch for biopsy with R ptx and hypoxia, with improvement over the
   course of [**12-6**] into [**12-7**] and removal of chest tube with resolution of
   PTX.
   >  Hypoxemic resp failure- multifactorial, emphysema at baseline, ?
   infectious process (although BAL neg) and new LLL process ? lymphoma
   now s/p rigid bx and then with R-ptxs/p pig tail chest tube. The PTX is
   small on imaging, but the patient reported improved markedly with chest
   tube placement.
   - keep O2 sats 90-93%
   - chest tube removed
   - continue levofloxacin to complete presumptive 10d course, end [**12-8**]
   - hold advair while receiving steroids and albuterol
   - prednisone 20mg qd
   > anemia - no identifiable cause of anemia by primary team, likely [**2-26**]
   chemotherapy.
   - transfusion goal hct >25
   - guaiac stools x3
   >Lymphoma - now s/p r-chop cycle 3.  Onc to address plans.
   -onc recommendations
   - f/u biopsy from bronch
   - prednisone 20mg qd, as per onc team
   Other issues per ICU resident.
   Persistent hypoxemia- most likely COPD +/- CHF. Check BNP .
   Albuterol/Atrovent/ Lasix if persistent then consider CTA to r/o PE
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2101-12-6**] 11:18 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2101-12-09 07:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > Desats yesterday afternoon with no change in CXR
   Allergies:
   Amoxicillin
   swelling face;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2101-12-8**] 02:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-12-9**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (96.9
   HR: 83 (82 - 134) bpm
   BP: 128/70(84) {118/47(68) - 161/81(99)} mmHg
   RR: 23 (20 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,020 mL
                                                                    120 mL
   PO:
                                                                    520 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                    280 mL
   Urine:
                                                                  2,240 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,220 mL
                                                                   -160 mL
   Respiratory support
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases (left >R),
   Diminished: left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.9 g/dL
   353 K/uL
   127 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.0 mEq/L
   14 mg/dL
   101 mEq/L
   138 mEq/L
   30.4 %
   5.7 K/uL
        [image002.jpg]
                            [**2101-12-7**]  06:08 AM
                            [**2101-12-8**]  06:15 AM
                            [**2101-12-9**]  06:05 AM
   WBC
   7.1
   4.4
   5.7
   Hct
   30.6
   30.5
   30.4
   Plt
   322
   341
   353
   Cr
   0.4
   0.4
   Glucose
   90
   127
   Other labs: PT / PTT / INR:11.5/24.0/1.0, Ca++:7.8 mg/dL, Mg++:2.2
   mg/dL, PO4:2.8 mg/dL
   Imaging: CXR [**12-9**]
   CT scan (PE): [**12-8**]
   Assessment and Plan
   80yoF DLBCL on R-CHOP, admitted [**11-29**] with SOB, fever, mild increased O2
   requirement, with CT showing septal and ground glass opacities (PCP neg
   on BAL [**12-2**]) and question of mass lesion in left central airways, now
   s/p bronch for biopsy with R ptx and hypoxia, with improvement over the
   course of [**12-6**] into [**12-7**] and removal of chest tube with resolution of
   PTX.
   >  Hypoxemic resp failure- multifactorial, emphysema at baseline, ?
   infectious process (although BAL neg) and new LLL process ? lymphoma
   now s/p rigid bx and then with R-ptxs/p pig tail chest tube. The PTX is
   small on imaging, but the patient reported improved markedly with chest
   tube placement, now removed and s/p levofloxacin course.  She had a
   brief episode of desaturation yesterday with tachycardia with negative
   PE study.  Interestingly she does have an elevated 1,3 glucan (>300)
   and her CT is more concerning for PCP. [**Name10 (NameIs) **] will need to repeat the
   induced sputum at a minimum. Given her clinical stability I would not
   favor treating her empirically. She also had an elevated BNP and this
   could be consistent with an atypical presentation of pulmonary edema
   although when we tried to diurese her on [**12-8**] she became hypotensive.
   - Bactrim prophylaxis
   - keep O2 sats 90-93%
   - hold advair while receiving steroids and albuterol
   - prednisone 20mg qd
   > anemia - no identifiable cause of anemia by primary team, likely [**2-26**]
   chemotherapy.
   - transfusion goal hct >25
   - guaiac stools x3
   >Lymphoma - now s/p r-chop cycle 3.  Onc to address plans.   She has
   carcinoid tumor on the LLL bipsy.
   -onc recommendations to manage carcinoid and lymphoma
   - prednisone 20mg qd, as per onc team
   Other issues per ICU resident.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2101-12-6**] 11:18 PM
   20 Gauge - [**2101-12-8**] 06:51 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2101-12-09 07:55:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   - Patient switched to 20 mg prednisone daily
   - Levaquin stopped
   - desatted to 80s, so put on NRB.  CXR showed no pneumo.  Got lasix -->
   becam tachycardic --> got  500 cc bolus and tachycardia resolved.
   - got CTA of chest to r/o PE, which was preliminarily negative
   - BNP elevated 2436 with no priors for comparison
   - pathology showing carcinoid
   Allergies:
   Amoxicillin
   swelling face;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2101-12-8**] 02:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-12-9**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (96.9
   HR: 83 (82 - 134) bpm
   BP: 128/70(84) {118/47(68) - 161/81(99)} mmHg
   RR: 23 (20 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,020 mL
                                                                    120 mL
   PO:
                                                                    520 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                    280 mL
   Urine:
                                                                  2,240 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,220 mL
                                                                   -160 mL
   Respiratory support
   SpO2: 98%
   ABG: ////
   Physical Examination
   Nad, a/ox3, sitting in chair, nasal flaring, mild dry crackle in upper
   lobes, abd soft, non-tender, no le edema, no murmur
   Labs / Radiology
   353 K/uL
   9.9 g/dL
   127 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.0 mEq/L
   14 mg/dL
   101 mEq/L
   138 mEq/L
   30.4 %
   5.7 K/uL
        [image002.jpg]
                            [**2101-12-7**]  06:08 AM
                            [**2101-12-8**]  06:15 AM
                            [**2101-12-9**]  06:05 AM
   WBC
   7.1
   4.4
   5.7
   Hct
   30.6
   30.5
   30.4
   Plt
   322
   341
   353
   Cr
   0.4
   0.4
   Glucose
   90
   127
   Other labs: PT / PTT / INR:11.5/24.0/1.0, Ca++:7.8 mg/dL, Mg++:2.2
   mg/dL, PO4:2.8 mg/dL
   Cxs (-), glucan markedly +, galactomanna (-)
   Assessment and Plan
   80yoF DLBCL on R-CHOP, admitted [**11-29**] with SOB, fever, mild increased O2
   requirement, with CT showing septal and ground glass opacities (?PCP vs
   pulmonary edema) and question of mass lesion in left central airways,
   now s/p bronch for biopsy with R ptx and hypoxia, admitted to MICU for
   oxygen monitoring.
   .
   #  hypoxia - multifactorial, emphysema at baseline, ?other
   opportunistic infection (treated with levo since admit, bactrim from
   [**11-30**] to [**12-3**] after pcp r/o), now with R-ptx with chest tube in place
   [**2-26**] barotrauma, removed [**12-7**].  Has had remarkable improvement in O2
   requirement, now near home baseline of 3L  (on 3.5L).  CT of chest
   [**12-8**] r/o PE, but does show worsening GGO in upper field predominance.
   Has been on steroids without PCP prophylaxis, has elevated LDH.
   - keep O2 sats 90-93%
   - f/u cxs
   - stoped levofloxacin [**12-8**]
   - stopped advair as pt on steroids and albuterol
   - prednisone 20mg qd
   - likely BAL/bronch [**12-9**] in upper lobes to assess for PCP, [**Name10 (NameIs) 2638**]
   bactrim prophylaxis
   # anemia - no identifiable cause of anemia by primary team, likely [**2-26**]
   chemotherapy.
   - transfusion goal hct >25
   - t/s
   - guaiac stools x3
   .
   # lymphoma - now s/p r-chop cycle 3.  Now with carcinoid on biopsy, onc
   team to address for management.
   - onc recommendations
   - f/u biopsy from bronch
   - prednisone 20mg qd, as per onc team
   .
   # ppx: ppi, pneumoboots.
   # access: PICC
   # code status: full
   # dispo: transfer to OMED/BMT [**12-8**]
   ICU Care
   Nutrition: po feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2101-12-6**] 11:18 PM
   20 Gauge - [**2101-12-8**] 06:51 PM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: may need to stay in icu pending bronch today, or transfer
   East

2101-12-10 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   CT showing worsening GGO - underwent bronchoscopy to r/o PCP
   Bronch performed without apparent complication - pcp smear, cxs sent
   Called out to Feldberg7
   Allergies:
   Amoxicillin
   swelling face;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2101-12-9**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-12-10**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 96 (81 - 100) bpm
   BP: 158/65(87) {123/56(73) - 158/113(118)} mmHg
   RR: 26 (19 - 32) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    670 mL
                                                                    276 mL
   PO:
                                                                    620 mL
                                                                    200 mL
   TF:
   IVF:
                                                                     50 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                    735 mL
                                                                    450 mL
   Urine:
                                                                    735 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -65 mL
                                                                   -174 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///32/
   Physical Examination
   Nad, a/ox3, sitting in chair, 3l nc, dinner plate clear, hyper-resonant
   lungs, decreased breath sounds at L base, abd soft non-tender,
   non-distended, no LE edema.
   Labs / Radiology
   435 K/uL
   11.0 g/dL
   96 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.5 mEq/L
   16 mg/dL
   106 mEq/L
   143 mEq/L
   32.6 %
   10.7 K/uL
        [image002.jpg]
                            [**2101-12-7**]  06:08 AM
                            [**2101-12-8**]  06:15 AM
                            [**2101-12-9**]  06:05 AM
                            [**2101-12-9**]  08:30 AM
                            [**2101-12-10**]  03:12 AM
   WBC
   7.1
   4.4
   5.7
   10.7
   Hct
   30.6
   30.5
   30.4
   32.6
   Plt
   322
   341
   353
   435
   Cr
   0.4
   0.4
   0.3
   0.4
   Glucose
   90
   127
   87
   96
   Other labs: PT / PTT / INR:11.5/26.8/1.0, Ca++:8.0 mg/dL, Mg++:1.8
   mg/dL, PO4:1.9 mg/dL
   No new cx data, PCP smear pending, fungal cxs pending
   Assessment and Plan
   80yoF DLBCL on R-CHOP, admitted [**11-29**] with SOB, fever, mild increased O2
   requirement, with CT showing septal and ground glass opacities (?PCP vs
   pulmonary edema) and question of mass lesion in left central airways,
   now s/p bronch for biopsy with R ptx and hypoxia, admitted to MICU for
   oxygen monitoring.
   1.  hypoxia - multifactorial, emphysema at baseline, ?other
   opportunistic infection (treated with levo since admit, bactrim from
   [**11-30**] to [**12-3**] after pcp r/o), now with R-ptx with chest tube in place
   [**2-26**] barotrauma, removed [**12-7**].  Has had remarkable improvement in O2
   requirement, now near home baseline of 3L  (on 3.5L).  CT of chest
   [**12-8**] r/o PE, but does show worsening GGO in upper field predominance.
   Has been on steroids without PCP prophylaxis, has elevated LDH.
   - keep O2 sats 90-93%
   - f/u cxs
   - stoped levofloxacin [**12-8**]
   - off advair (pt on steroids and albuterol)
   - prednisone 20mg qd
   - f/u pcp smear and fungal cxs, cont bactrim prophylaxis
   - thoracics called by IP for carcinoid tumor
 to address further
   intervention for endobronchial mass
   2.  anemia - no identifiable cause of anemia by primary team, likely
   [**2-26**] chemotherapy.
   - transfusion goal hct >25
   - t/s
   - guaiac stools x3
   3.  lymphoma - now s/p r-chop cycle 3.  Now with carcinoid on biopsy,
   onc team to address for management.
   - onc recommendations
   - f/u biopsy from bronch
   - prednisone 20mg qd, as per onc team
   # ppx: ppi, pneumoboots.
   #  access: PICC
   # code status: full
   # dispo: transfer to OMED/BMT [**12-10**]
 we have discussed possible DC to
   home with outpt f/u, but given pending consult with thoracics today and
   pcp smear and need to have close f/u, will cont with call-out with
   dispo to be decided by BMT team.
   ICU Care
   Nutrition: po feeds
   Glycemic Control: iss
   Lines:
   PICC Line - [**2101-12-6**] 11:18 PM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to Feldberg7

2101-12-10 11:00:00 Physician Attending Progress Note
Chief Complaint: [**Name (NI) 2671**] PTX
   HPI:
   [**11-29**] - fever and neutropenia
   [**12-6**] - rigid bronch for LLL mass --> c/b PTX
   >LLL mass path = carcinoid
   24 Hour Events:
 BAL done
   Allergies:
   Amoxicillin
   swelling face;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2101-12-10**] 08:30 AM
   Other medications:
   prednisone 20, bactrim ppx, SQH
   Changes to medical and family history:
   DLBCL
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-12-10**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.7
   HR: 118 (82 - 122) bpm
   BP: 137/67(81) {123/56(75) - 163/113(118)} mmHg
   RR: 18 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    670 mL
                                                                    787 mL
   PO:
                                                                    620 mL
                                                                    680 mL
   TF:
   IVF:
                                                                     50 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                    735 mL
                                                                    615 mL
   Urine:
                                                                    735 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -65 mL
                                                                    172 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///32/
   PaO2 / FiO2: 2L
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal), Tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Decreased BS LLL, no dullness
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   435 K/uL
   96 mg/dL
   0.4 mg/dL
   32 mEq/L
   4.5 mEq/L
   16 mg/dL
   106 mEq/L
   143 mEq/L
   32.6 %
   10.7 K/uL
        [image002.jpg]
                            [**2101-12-7**]  06:08 AM
                            [**2101-12-8**]  06:15 AM
                            [**2101-12-9**]  06:05 AM
                            [**2101-12-9**]  08:30 AM
                            [**2101-12-10**]  03:12 AM
   WBC
   7.1
   4.4
   5.7
   10.7
   Hct
   30.6
   30.5
   30.4
   32.6
   Plt
   322
   341
   353
   435
   Cr
   0.4
   0.4
   0.3
   0.4
   Glucose
   90
   127
   87
   96
   Other labs: PT / PTT / INR:11.5/26.8/1.0, Ca++:8.0 mg/dL, Mg++:1.8
   mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs: BAL: PCP and fungal stain are pending
   b-glucan elevated
   g-mannan negative
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]): now back on home O2
   requirement. PTX resolved. LLL endobronchial mass (carcinoid) debrided
   -F/u BAL studies
   > Anemia: chornic and stable
   > Tachycardia: [**Last Name (un) 657**] cause. Stable
   >DLBCL
   -F/u treatment plan with onc
   >Carcinoid
   -F/u IP recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2101-12-6**] 11:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes